US09403810B2
Step 3: 4-Methyl-5-(6-methyl-3,6-dihydro-2H-pyran-2-yl)isoxazole-3-carboxylic acid
To a solution of ethyl 4-methyl-5-(6-methyl-3,6-dihydro-2H-pyran-2-yl)isoxazole-3-carboxylate (14 mg, 0.056 mmol) in MeOH (0.2 mL) and THF (0.3 mL) was added 2M NaOH (aq) (27.9 μl, 0.056 mmol). The reaction mixture was stirred at room temperature for 3 hours. The resulting mixture was concentrated under reduced pressure and 2M NaOH (aq) (1 mL) and water (1 mL) added. The aqueous was extracted with DCM (×3) and the combined organic extracts passed through a phase separating cartridge. The eluent was concentrated under reduced pressure to afford the title compound.

reactant | ethyl 4-methyl-5-(6-methyl-3,6-dihydro-2H-pyran-2-yl)isoxazole-3-carboxylate | 0.056 mmol, 14 mg | CC=1C(=NOC1C1OC(C=CC1)C)C(=O)OCC | C13H17NO4
reactant | NaOH | 0.056 mmol, 2M, 27.9 μl | [OH-].[Na+]
solvent | MeOH | 0.2 mL | CO | CH4O
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | 4-Methyl-5-(6-methyl-3,6-dihydro-2H-pyran-2-yl)isoxazole-3-carboxylic acid | CC=1C(=NOC1C1OC(C=CC1)C)C(=O)O | C11H13NO4
